* C:\Program Files (x86)\LTC\LTspiceIV\commSystemDesign.asc
C1 N003 N002 4.7µ
V1 N002 0 PULSE(0 5 0 0.000000000000001 0.000000000000001 0.010 0.020 100)
V2 N007 0 12
C2 N003 N007 4.7µ
C3 N003 0 4.7µ
R1 N003 0 100
D1 N005 N003 D
D2 N003 N009 D
R2 N001 N005 470
R3 N008 N009 470
XU1 N008 N001 N006 0 N004 LT1366
R5 N004 N001 12k
R6 N005 0 100
V3 N006 0 3.3
R4 N009 0 530
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 0.1 uic
.lib LTC.lib
.backanno
.end
